US05292732
N-[2-(4,5-Dihydro-7-methoxy-1H-benzo[g]indol-3-yl)ethyl]acetamide (48.8 g) was dissolved in 1000 ml of methylene chloride under argon, cooled to -15° C. and treated at this temperature while stirring with a solution of 50 ml of borontribromide in 300 ml of methylene chloride. The mixture was stirred at -15° C. for 1 hour, at 0° C. for 5 hours at room temperature overnight. The reaction mixture was treated at -10° C. with 1000 ml of 2N sodium hydroxide solution and stirred at room temperature for 1 hour. 500 ml of methylene chloride were added to this mixture and the resulting mixture was adjusted to pH=8 with 250 ml of 2N hydrochloric acid. The phases were separated and the aqueous phase was extracted twice with 500 ml of methylene chloride each time. The organic phases were combined, dried with MgSO4 and freed from solvent. The residue, 33.2 g of yellow-brown, amorphous material, was chromatographed on 500 g of silica gel with methylene chloride/methanol mixtures (50:1 to 20:1) as the eluent. There were obtained 30.2 g (65%) of N-[2-[4,5-dihydro-7-hydroxy-1H-benzo[g]indol-1-yl)ethyl]acetamide which was processed without further purification. MS: (m/e)=270 (M+).

reactant | N-[2-(4,5-Dihydro-7-methoxy-1H-benzo[g]indol-3-yl)ethyl]acetamide | 48.8 g | COC=1C=CC2=C(CCC=3C(=CNC23)CCNC(C)=O)C1 | C17H20N2O2
reactant | sodium hydroxide | 2N, 1000 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 250 ml | Cl | ClH
solvent | methylene chloride | 1000 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | N-[2-[4,5-dihydro-7-hydroxy-1H-benzo[g]indol-1-yl)ethyl]acetamide | 30.2 g, 65% | OC=1C=CC2=C(CCC=3C=CN(C23)CCNC(C)=O)C1 | C16H18N2O2
